US07375134B2
Step 2: Preparation of N-[(1S)-1-(6-chloropyridin-3-yl)-2,2,2-trifluoroethyl]-L-leucine
A stock solution of H5IO6/CrO3 was prepared by dissolving H5IO6 (68.4 g, 0.3 mol) and CrO3 (138 mg, 1.2 mol %) in CH3CN (684 mL) to give a 0.44 M solution. To a solution of H5IO6/CrO3 (16 mmol, 36 mL, 0.44 M in THF) at −5° C. (ice and salt bath) was added a solution of (2S)-2-{[(1S)-1-(6-chloropyridin-3-yl)-2,2,2-trifluoroethyl]amino}-4-methylpentan-1-ol (1 g) in 3 mL THF dropwise. The internal temperature was monitored and reaction temperature was not allowed to rise above 0° C. The reaction was monitored by TLC until the reaction was complete (3-4 h). Na2HPO4 (80 mL) was added to the reaction mixture which was then extracted with EtOAc. The organic extract was washed with brine, NaHSO3 (120 mL) and brine again, dried over anhyd. MgSO4 and concentrated to an oil. The oil was redissolved in EtOAc and filtered through a short pad of silica gel, eluted with EtOAc and the filtrated was concentrated to give the title compound.

reactant | (2S)-2-{[(1S)-1-(6-chloropyridin-3-yl)-2,2,2-trifluoroethyl]amino}-4-methylpentan-1-ol | 1 g | ClC1=CC=C(C=N1)[C@@H](C(F)(F)F)N[C@H](CO)CC(C)C | C13H18ClF3N2O
reactant | THF | 3 mL | C1CCOC1 | C4H8O
product | N-[(1S)-1-(6-chloropyridin-3-yl)-2,2,2-trifluoroethyl]-L-leucine | ClC1=CC=C(C=N1)[C@@H](C(F)(F)F)N[C@@H](CC(C)C)C(=O)O | C13H16ClF3N2O2
